US04886814
N-[2-(4-Carboxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine
Prepared analogously to Example 16 by reaction of N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine in methanol with 1N sodium hydroxide solution. After neutralisation with 1N hydrochloric acid, the mixture is extracted by shaking with methylene chloride, the extract is evaporated to dryness, and the remaining residue is triturated with petroleum ether and filtered off with suction.

reactant | N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCCC=1N=C(SC1)C(F)(F)F | C18H21F3N2O3S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | N-[2-(4-Carboxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine | C(=O)(O)COC1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1)C(F)(F)F)O | C17H19F3N2O4S
